US04367238
A solution of 2-(2-methoxy-3-phenoxyphenyl)acetic acid (2.1 g) in acetic anhydride (10 ml) and hydriodic acid (55-58%, 20 ml) were treated in a similar manner to that of Example 10-(7). To the resultant oily residue containing 2-(2-hydroxy-3-phenoxyphenyl)acetic acid was added acetic anhydride (5 ml), and the mixture was refluxed under heating for 30 minutes and then evaporated. The oily residue (1.5 g) was purified by column chromatography (silica gel, benzene) and crystallization from ethanol to give 7-phenoxy-2,3-dihydrobenzofuran-2-one (950 mg). mp 60°-61° C.

reactant | 2-(2-methoxy-3-phenoxyphenyl)acetic acid | 2.1 g | COC1=C(C=CC=C1OC1=CC=CC=C1)CC(=O)O | C15H14O4
reactant | 2-(2-hydroxy-3-phenoxyphenyl)acetic acid | OC1=C(C=CC=C1OC1=CC=CC=C1)CC(=O)O | C14H12O4
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydriodic acid | 20 ml | I | HI
solvent | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 7-phenoxy-2,3-dihydrobenzofuran-2-one | 950 mg | O(C1=CC=CC=C1)C1=CC=CC=2CC(OC21)=O | C14H10O3
